US07265135B2
Step A: Preparation of 1-Methyl-2-phenylsulfanyl-1H-imidazole
To a stirred solution of 1-Methyl-1H-imidazole (3.00 mL) in dry THF (120 mL) was added at −78° C. n-BuLi (15.0 mL, 2.50 M in hexanes). The reaction solution was stirred for 20 minutes at −78° C. and diphenyldisulfide (8.21 g) was added. The reaction mixture was stirred for 15 minutes at −78° C. and was allowed to warm to room temperature over 45 minutes. Water (25.0 mL) was added and the solvent was removed in vacuo. The residue was dissolved in dichloromethane (500 mL) and the organic layer was washed with water (2×50.0 mL). The organic layer was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified by flash chromatography on silica gel (hexanes/acetone) to give the title compound (5.85 g). Step B: Preparation of (4-Chlorophenyl)-(3-methyl-2-phenylsulfanyl-3H-imidazol-4-yl)-methanol

reactant | 1-Methyl-1H-imidazole | 3.00 mL | CN1C=NC=C1 | C4H6N2
reactant | n-BuLi | 2.50 M, 15.0 mL | [Li]CCCC
reactant | diphenyldisulfide | 8.21 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | Water | 25.0 mL | O | H2O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 1-Methyl-2-phenylsulfanyl-1H-imidazole | 5.85 g | CN1C(=NC=C1)SC1=CC=CC=C1 | C10H10N2S
